US05776936
The contents of 100 flasks, each containing 100 ml fermentation as described in the protocol for biotransformation and which had been shaken at 28° C. for 24-72 hours following addition of Marcfortine A (0.010 g per flask, 1 g total) in DMF (0.2 ml per flask, 20 ml total) are each treated with CH2Cl2 (100 ml). The contents are combined and stirred in a waring blender for 5 minutes. The mixture is centrifuged and the resulting aqueous layer is decanted. The organic layer is collected, dried (sodium sulfate), filtered and concentrated. The components of the crude mixture are separated by a series of column chromatographies using a silica gel--solid extract ratio of 50-125:1. Columns are eluted with either 2-5% methanol in CH2Cl2 or 15-60% acetone in C2Cl2. From these chomatographic separations there is isolated Marcfortine B. HRMS (FAB); mle, found, 464.2563; calculated for C27H33N3O4 +H1, 464.2549.

reactant | Marcfortine A | 0.010 g | CC1(C=COC2=C(C=CC3=C2NC(=O)[C@@]34C[C@@]56CN7CCCC[C@]7(C[C@@H]5C4(C)C)C(=O)N6C)O1)C | C28H35N3O4
reactant | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.2 ml | CN(C)C=O | C3H7NO
product | Marcfortine B | CC1(C=COC2=C(O1)C=CC3=C2NC(=O)[C@@]34C[C@@]56CN7CCCC[C@]7(C[C@H]5C4(C)C)C(=O)N6)C | C27H33N3O4
